US07557213B2
Preparation of 8-(3,4-Dimethyl-benzoyl)-6-pyridin-4-ylmethyl-2,3-dihydro-6H-[1,4]dioxino[2,3-g]quinolin-9-one
Experimental conditions analogous to those described for Step 3 of Example 1, from 58 mg (0.17 mmol) of 8-(3,4-dimethyl-benzoyl)-2,3-dihydro-6H-[1,4]dioxino[2,3-g]quinolin-9-one, 18 mg of 60% sodium hydride, 57 mg of 4-bromomethylpyridine hydrobromide and 1.2 mL of N,N-dimethylformamide. Yield: 52 mg of a white solid: LC-MSD, m/z for C26H22N2O4 [M+H]+=427.5; HPLC retention time: 1.4 min.

reactant | 8-(3,4-dimethyl-benzoyl)-2,3-dihydro-6H-[1,4]dioxino[2,3-g]quinolin-9-one | 0.17 mmol, 58 mg | CC=1C=C(C(=O)C2=CNC=3C=C4C(=CC3C2=O)OCCO4)C=CC1C | C20H17NO4
reactant | sodium hydride | 18 mg | [H-].[Na+]
reactant | 4-bromomethylpyridine hydrobromide | 57 mg | Br.BrCC1=CC=NC=C1
solvent | N,N-dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
product | 8-(3,4-Dimethyl-benzoyl)-6-pyridin-4-ylmethyl-2,3-dihydro-6H-[1,4]dioxino[2,3-g]quinolin-9-one | CC=1C=C(C(=O)C2=CN(C=3C=C4C(=CC3C2=O)OCCO4)CC4=CC=NC=C4)C=CC1C | C26H22N2O4
